*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 4.3
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_0 1 2 3 4 REF
C_C1 1 REF 0.6357722237508pf
C_C2 1 2 18.507866038726pf
C_C3 1 3 0.0299450093779pf
C_C4 1 4 0.2536405639198pf
C_C5 2 REF 0.8753032432426pf
C_C6 2 3 0.131088323439pf
C_C7 3 REF 0.6592076454449pf
C_C8 3 4 5.1396946492701pf
C_C9 4 REF 0.6650500224119pf
L_L1 3 5 1.2971615320387nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_1 1 2 3 4 REF
C_C1 1 REF 0.5487617994203pf
C_C2 1 2 18.937995656848pf
C_C3 1 3 0.0274464298767pf
C_C4 1 4 0.2585210592667pf
C_C5 2 REF 0.7963051573786pf
C_C6 2 3 0.1315912491122pf
C_C7 3 REF 0.6612345710792pf
C_C8 3 4 3.7991236079635pf
C_C9 4 REF 0.663970378794pf
L_L1 3 5 1.2982398690813nh
R_RL1 5 4 1.2518557014e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_2 1 2 3 4 REF
C_C1 1 REF 0.4803239806651pf
C_C2 1 2 19.418871368887pf
C_C3 1 3 0.0249478168733pf
C_C4 1 4 0.2639055805901pf
C_C5 2 REF 0.7362621965081pf
C_C6 2 3 0.1322586518153pf
C_C7 3 REF 0.6630962167611pf
C_C8 3 4 2.8611245334868pf
C_C9 4 REF 0.6633705325986pf
L_L1 3 5 1.2991392282503nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_3 1 2 3 4 REF
C_C1 1 REF 0.4171952078918pf
C_C2 1 2 20.08635074725pf
C_C3 1 3 0.0218191325434pf
C_C4 1 4 0.2713880467996pf
C_C5 2 REF 0.684293022111pf
C_C6 2 3 0.1333661197063pf
C_C7 3 REF 0.6651547122818pf
C_C8 3 4 2.0520822714952pf
C_C9 4 REF 0.6630812377801pf
L_L1 3 5 1.3000507316345nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_4 1 2 3 4 REF
C_C1 1 REF 0.3659383556641pf
C_C2 1 2 20.96036472832pf
C_C3 1 3 0.0180991085854pf
C_C4 1 4 0.2812759309554pf
C_C5 2 REF 0.6473299179918pf
C_C6 2 3 0.1350828061512pf
C_C7 3 REF 0.6672016216362pf
C_C8 3 4 1.4018830025929pf
C_C9 4 REF 0.6631165725002pf
L_L1 3 5 1.3009634675667nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_5 1 2 3 4 REF
C_C1 1 REF 0.3337733891715pf
C_C2 1 2 21.921677027714pf
C_C3 1 3 0.0143497094692pf
C_C4 1 4 0.2922802073654pf
C_C5 2 REF 0.6307776648244pf
C_C6 2 3 0.1372729626985pf
C_C7 3 REF 0.6688041204245pf
C_C8 3 4 0.9701905431178pf
C_C9 4 REF 0.6633752645591pf
L_L1 3 5 1.301702241797nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_6 1 2 3 4 REF
C_C1 1 REF 0.3140599129729pf
C_C2 1 2 22.975602150926pf
C_C3 1 3 0.0105036176862pf
C_C4 1 4 0.3044587820117pf
C_C5 2 REF 0.6281791563583pf
C_C6 2 3 0.1399625822027pf
C_C7 3 REF 0.6700042570085pf
C_C8 3 4 0.6734313742755pf
C_C9 4 REF 0.6637241675869pf
L_L1 3 5 1.3023103872185nh
R_RL1 5 4 -1.366008246e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_7 1 2 3 4 REF
C_C1 1 REF 0.3005511142357pf
C_C2 1 2 24.34513985362pf
C_C3 1 4 0.3203780997532pf
C_C4 2 REF 0.6368932257987pf
C_C5 2 3 0.1438040245725pf
C_C6 3 REF 0.670966150007pf
C_C7 3 4 0.4356323516196pf
C_C8 4 REF 0.664151590409pf
L_L1 3 5 1.3028853105854nh
R_RL1 5 4 -1.859702525e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_8 1 2 3 4 REF
C_C1 1 REF 0.2911285305731pf
C_C2 1 2 26.098936231741pf
C_C3 1 4 0.3407869295493pf
C_C4 2 REF 0.6557692141425pf
C_C5 2 3 0.1491086096941pf
C_C6 3 REF 0.6716173892126pf
C_C7 3 4 0.2515884788902pf
C_C8 4 REF 0.6646009479546pf
L_L1 3 5 1.3034287964265nh
R_RL1 5 4 -2.333043221e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_9 1 2 3 4 REF
C_C1 1 REF 0.2825094582673pf
C_C2 1 2 28.395763459194pf
C_C3 1 4 0.3673997113331pf
C_C4 2 REF 0.683723837655pf
C_C5 2 3 0.1565007159739pf
C_C6 3 REF 0.6719145771734pf
C_C7 3 4 0.1150413082044pf
C_C8 4 REF 0.665031757526pf
L_L1 1 5 76.392927989184nh
R_RL1 5 2 4.7607669554568
L_L2 3 6 1.3038810551002nh
R_RL2 6 4 -2.720265729e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_10 1 2 3 4 REF
C_C1 1 REF 0.2704524028907pf
C_C2 1 2 31.420302299399pf
C_C3 1 4 0.4021338669148pf
C_C4 2 REF 0.7189059880117pf
C_C5 2 3 0.166678126989pf
C_C6 3 REF 0.6718847879067pf
C_C7 3 4 0.0154057012788pf
C_C8 4 REF 0.6654257218327pf
L_L1 1 5 47.764500546719nh
R_RL1 5 2 2.1623697886585
L_L2 3 6 1.3042609867512nh
R_RL2 6 4 -2.982417618e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_11 1 2 3 4 REF
C_C1 1 REF 0.2496631116948pf
C_C2 1 2 35.577680305027pf
C_C3 1 4 0.4492963311501pf
C_C4 2 REF 0.7615257092969pf
C_C5 2 3 0.1811205673403pf
C_C6 3 REF 0.6715627843565pf
C_C7 4 REF 0.6657963114825pf
L_L1 1 5 29.472879607182nh
R_RL1 5 2 0.6021817479873
L_L2 3 6 1.3041782433924nh
R_RL2 6 4 -3.048515009e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_12 1 2 3 4 REF
C_C1 1 REF 0.2141918571477pf
C_C2 1 2 41.466144902003pf
C_C3 1 4 0.515274595875pf
C_C4 2 REF 0.8138749443349pf
C_C5 2 3 0.2019707165904pf
C_C6 3 REF 0.6710104208075pf
C_C7 4 REF 0.6661930198869pf
L_L1 1 5 18.039744547589nh
R_RL1 5 2 -0.854836318244
L_L2 3 6 1.3038732649795nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_13 1 2 3 4 REF
C_C1 1 REF 0.1534614955183pf
C_C2 1 2 50.454191113779pf
C_C3 1 4 0.614901412518pf
C_C4 2 REF 0.8847561740671pf
C_C5 2 3 0.234110940161pf
C_C6 3 REF 0.6702554005009pf
C_C7 4 REF 0.6667274316676pf
R_R1 1 2 787.27677276146
L_L1 1 5 10.253098915331nh
R_RL1 5 2 -0.144539841161
L_L2 3 6 1.3033267714169nh
R_RL2 6 4 -2.404563656e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_14 1 2 3 4 REF
C_C1 1 REF 0.0487391446072pf
C_C2 1 2 65.180070127354pf
C_C3 1 4 0.7769610503943pf
C_C4 2 REF 0.9932588593654pf
C_C5 2 3 0.2869208665797pf
C_C6 3 REF 0.6692901083824pf
C_C7 4 REF 0.6676187959646pf
R_R1 1 2 324.79228767241
L_L1 1 5 5.6920899859031nh
R_RL1 5 2 0.1426655898613
L_L2 3 6 1.302443214834nh
R_RL2 6 4 -1.586296094e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_15 1 2 3 4 REF
C_C1 1 2 93.021371021944pf
C_C2 1 4 1.0821891523839pf
C_C3 2 REF 1.1932365427424pf
C_C4 2 3 0.3866904260375pf
C_C5 3 REF 0.6679605268723pf
C_C6 4 REF 0.669450342673pf
R_R1 1 2 140.67334410661
L_L1 1 5 2.7496911459988nh
R_RL1 5 2 -0.302171636747
L_L2 3 6 1.3007578084921nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_16 1 2 3 4 REF
C_C1 1 2 164.23798052703pf
C_C2 1 4 1.8619542981069pf
C_C3 2 REF 1.7036520334637pf
C_C4 2 3 0.6414605078599pf
C_C5 3 REF 0.6654719098712pf
C_C6 4 REF 0.6745769293385pf
R_R1 1 2 49.632272531695
L_L1 1 5 1.0636043894597nh
R_RL1 5 2 -0.163672628193
L_L2 1 6 48.130494748153nh
R_RL2 6 3 -0.180238483414
L_L3 1 7 47.407560465962nh
R_RL3 7 4 -0.181338580484
L_L4 2 8 48.236574023194nh
R_RL4 8 3 0.0129698180921
L_L5 2 9 47.516895666136nh
R_RL5 9 4 0.0126872609986
L_L6 3 10 1.2965770439718nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0669144564545
Kn_K2 L_L1 L_L3 0.0671934657357
Kn_K3 L_L1 L_L4 -0.081650743028
Kn_K4 L_L1 L_L5 -0.082495746904
Kn_K5 L_L2 L_L3 0.9864569272209
Kn_K6 L_L2 L_L4 0.9889635882651
Kn_K7 L_L2 L_L5 0.9753101706578
Kn_K8 L_L2 L_L6 -0.127822400848
Kn_K9 L_L3 L_L4 0.9753939847507
Kn_K10 L_L3 L_L5 0.9887959102278
Kn_K11 L_L3 L_L6 0.0365837781285
Kn_K12 L_L4 L_L5 0.986487079548
Kn_K13 L_L4 L_L6 -0.127475920505
Kn_K14 L_L5 L_L6 0.0367490706598
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_17 1 2 3 4 REF
C_C1 1 2 496.35605466036pf
C_C2 1 4 5.4974812802324pf
C_C3 2 REF 4.0900945721513pf
C_C4 2 3 1.8291069565005pf
C_C5 3 REF 0.6562350044924pf
C_C6 4 REF 0.7000987018018pf
R_R1 1 REF -756.6922566099
R_R2 1 2 8.14122168764
R_R3 1 4 635.82388345794
R_R4 2 REF 740.29354018075
R_R5 2 4 -636.3074528163
L_L1 1 5 27.872625618789nh
R_RL1 5 REF -0.712487986
L_L2 1 6 0.2382900652513nh
R_RL2 6 2 -0.064534335905
L_L3 1 7 12.914139766631nh
R_RL3 7 3 -0.052526092222
L_L4 1 8 12.240835270948nh
R_RL4 8 4 -0.054409526305
L_L5 2 9 27.711479749507nh
R_RL5 9 REF -0.823590957906
L_L6 2 10 12.964982829668nh
R_RL6 10 3 0.0013112868738
L_L7 2 11 12.296072503894nh
R_RL7 11 4 0.0013515116869
L_L8 3 12 40.508938888465nh
R_RL8 12 REF -0.794086322492
L_L9 3 13 1.2773612218987nh
R_RL9 13 4 1.2372608897e-5
L_L10 4 14 39.82730885073nh
R_RL10 14 REF -0.796998523695
Kn_K1 L_L1 L_L2 0.0774952758172
Kn_K2 L_L1 L_L5 0.995717166414
Kn_K3 L_L1 L_L8 0.8253604090886
Kn_K4 L_L1 L_L10 0.8322683778388
Kn_K5 L_L2 L_L3 0.0534272467416
Kn_K6 L_L2 L_L4 0.0535905189266
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082248676523
Kn_K9 L_L2 L_L7 -0.08573977227
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.949560543285
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9907941013056
Kn_K15 L_L3 L_L7 0.9399877076306
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.240139305742
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9404315076417
Kn_K21 L_L4 L_L7 0.9902910139994
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0763809997066
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.824593146354
Kn_K26 L_L5 L_L10 0.8314280802384
Kn_K27 L_L6 L_L7 0.9497666161049
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.239128093464
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0767636237092
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1361664782466
Kn_K35 L_L8 L_L10 0.9841352395065
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_18 1 2 3 4 REF
C_C1 1 REF 20.711777249271pf
C_C2 1 3 10.033579729033pf
C_C3 2 4 30.720356296273pf
C_C4 3 REF 0.7402006194316pf
C_C5 4 REF 0.438815330123pf
R_R1 1 REF -266.98788887
R_R2 1 2 1.1911986941215
R_R3 1 3 -245.9642554271
R_R4 1 4 124.25731049973
R_R5 2 REF 263.14076604182
R_R6 2 3 245.99934496483
R_R7 2 4 -124.2936860845
L_L1 1 5 3.6014059681006nh
R_RL1 5 REF -0.014976570032
L_L2 1 6 0.1513016033774nh
R_RL2 6 2 -0.268563743818
L_L3 1 7 2.4520372786853nh
R_RL3 7 3 -0.108222905023
L_L4 1 8 1.889426614662nh
R_RL4 8 4 -0.15654917611
L_L5 2 9 3.7150268127546nh
R_RL5 9 REF -0.271741873927
L_L6 2 10 2.4162866125467nh
R_RL6 10 3 -0.035306472296
L_L7 2 11 1.8287303471977nh
R_RL7 11 4 -0.01472335961
L_L8 3 12 6.0455689000091nh
R_RL8 12 REF -0.114464804284
L_L9 3 13 1.1435997155514nh
R_RL9 13 4 -4.380820998e-3
L_L10 4 14 5.4905105894313nh
R_RL10 14 REF -0.161564055294
Kn_K1 L_L1 L_L2 0.0255230069163
Kn_K2 L_L1 L_L5 0.9794384153821
Kn_K3 L_L1 L_L8 0.7709787498421
Kn_K4 L_L1 L_L10 0.8098605762256
Kn_K5 L_L2 L_L3 0.1535492454974
Kn_K6 L_L2 L_L4 0.1982506975481
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.095553695465
Kn_K9 L_L2 L_L7 -0.086124592096
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0299850789804
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7428505853053
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9689473393152
Kn_K16 L_L3 L_L7 0.710911040944
Kn_K17 L_L3 L_L8 0.9343614536034
Kn_K18 L_L3 L_L9 -0.509450544034
Kn_K19 L_L3 L_L10 0.9814829596449
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6987167014915
Kn_K22 L_L4 L_L7 0.9594352100164
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1976222861833
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0143093927691
Kn_K27 L_L5 L_L7 0.0102142347125
Kn_K28 L_L5 L_L8 0.7748566903983
Kn_K29 L_L5 L_L10 0.816678430846
Kn_K30 L_L6 L_L7 0.7377023073143
Kn_K31 L_L6 L_L8 0.960789259884
Kn_K32 L_L6 L_L9 -0.52070885316
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1922502346165
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3230132615296
Kn_K38 L_L8 L_L10 0.9019121509887
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_19 1 2 3 4 REF
C_C1 1 2 1373.5431992305pf
C_C2 1 4 15.135207293717pf
C_C3 2 REF 10.471064771494pf
C_C4 2 3 4.9312197565801pf
C_C5 3 REF 0.6321584498266pf
C_C6 4 REF 0.7684920656808pf
R_R1 1 REF 224.77660040193
R_R2 1 2 -1.288385093814
R_R3 1 3 301.03482656663
R_R4 1 4 -126.4621390495
R_R5 2 REF -227.9743224225
R_R6 2 3 -301.1717171253
R_R7 2 4 126.50066066241
L_L1 1 5 6.1608749200009nh
R_RL1 5 REF -0.049704788969
L_L2 1 6 0.0396247031126nh
R_RL2 6 2 0.0211824332414
L_L3 1 7 3.6333904752233nh
R_RL3 7 3 0.0068579426675
L_L4 1 8 3.0038057392533nh
R_RL4 8 4 0.0091706138246
L_L5 2 9 6.1122530047255nh
R_RL5 9 REF -0.038356487839
L_L6 2 10 3.6509817607363nh
R_RL6 10 3 0.0034703730937
L_L7 2 11 3.0282377807022nh
R_RL7 11 4 0.0021104042722
L_L8 3 12 9.7350938389669nh
R_RL8 12 REF -0.049417468489
L_L9 3 13 1.2033644445812nh
R_RL9 13 4 2.0535556031e-4
L_L10 4 14 9.0985835709971nh
R_RL10 14 REF -0.048111912411
Kn_K1 L_L1 L_L2 0.0893025520289
Kn_K2 L_L1 L_L5 0.9967792480031
Kn_K3 L_L1 L_L8 0.7916997910619
Kn_K4 L_L1 L_L10 0.8184617003268
Kn_K5 L_L2 L_L3 0.029034397795
Kn_K6 L_L2 L_L4 0.0220183585039
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.075214152872
Kn_K9 L_L2 L_L7 -0.092460634731
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.015663633106
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.822402146005
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9945632133593
Kn_K16 L_L3 L_L7 0.8157565827273
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.438294281171
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8181246506021
Kn_K22 L_L4 L_L7 0.9934391143005
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1508970261534
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7905506277387
Kn_K27 L_L5 L_L10 0.8168125290281
Kn_K28 L_L6 L_L7 0.8234213685615
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.435605289835
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1520788321493
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2687754489911
Kn_K36 L_L8 L_L10 0.9366407765152
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_20 1 2 3 4 REF
C_C1 1 2 133.61454094289pf
C_C2 1 4 1.522265420358pf
C_C3 2 REF 1.4823781003394pf
C_C4 2 3 0.5312245203518pf
C_C5 3 REF 0.6632950986042pf
C_C6 4 REF 0.6687550530751pf
R_R1 1 2 -56.92370307903
L_L1 1 5 0.2918163320905nh
R_RL1 5 2 0.0314935810987
L_L2 1 6 28.544520860049nh
R_RL2 6 3 -0.015579411591
L_L3 1 7 27.8032596603nh
R_RL3 7 4 -0.015283758656
L_L4 2 8 28.784529945371nh
R_RL4 8 3 0.016127157739
L_L5 2 9 28.051835549464nh
R_RL5 9 4 0.0153033943268
L_L6 3 10 1.2888117808047nh
R_RL6 10 4 6.5825261906e-5
Kn_K1 L_L1 L_L4 -0.09174971542
Kn_K2 L_L1 L_L5 -0.094437319999
Kn_K3 L_L2 L_L3 0.9772121105142
Kn_K4 L_L2 L_L4 0.9949185190125
Kn_K5 L_L2 L_L5 0.9719573725105
Kn_K6 L_L2 L_L6 -0.167349927267
Kn_K7 L_L3 L_L4 0.972365277569
Kn_K8 L_L3 L_L5 0.9947853264738
Kn_K9 L_L3 L_L6 0.0457353115696
Kn_K10 L_L4 L_L5 0.9774053883441
Kn_K11 L_L4 L_L6 -0.165947516562
Kn_K12 L_L5 L_L6 0.0462446061925
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_21 1 2 3 4 REF
C_C1 1 REF 0.209210184224pf
C_C2 1 2 44.693763543287pf
C_C3 1 4 0.5452660432438pf
C_C4 2 REF 0.8452330393732pf
C_C5 2 3 0.2133859341733pf
C_C6 3 REF 0.6647803210123pf
C_C7 4 REF 0.6606301067723pf
R_R1 1 2 -400.113022602
L_L1 1 5 0.7598126191235nh
R_RL1 5 2 -0.241878119606
L_L2 1 6 93.642572657754nh
R_RL2 6 3 -0.388009450107
L_L3 1 7 92.66095434763nh
R_RL3 7 4 -0.383198019395
L_L4 2 8 94.944212887243nh
R_RL4 8 3 -1.140636488311
L_L5 2 9 93.969183030467nh
R_RL5 9 4 -1.132174544943
L_L6 3 10 1.2955035696686nh
R_RL6 10 4 3.0631510526e-5
Kn_K1 L_L1 L_L2 -0.03211746185
Kn_K2 L_L1 L_L3 -0.032679735748
Kn_K3 L_L1 L_L4 -0.121354506847
Kn_K4 L_L1 L_L5 -0.122372331849
Kn_K5 L_L2 L_L3 0.9930600591113
Kn_K6 L_L2 L_L4 0.9959947429734
Kn_K7 L_L2 L_L5 0.9890112244674
Kn_K8 L_L2 L_L6 -0.103371377896
Kn_K9 L_L3 L_L4 0.9891528377882
Kn_K10 L_L3 L_L5 0.9959532476511
Kn_K11 L_L3 L_L6 0.0143242942616
Kn_K12 L_L4 L_L5 0.9931555696161
Kn_K13 L_L4 L_L6 -0.10236331644
Kn_K14 L_L5 L_L6 0.0145228009102
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_22 1 2 3 4 REF
C_C1 1 REF 0.3895662020982pf
C_C2 1 2 20.932129191399pf
C_C3 1 3 0.0389097759669pf
C_C4 1 4 0.2818090813562pf
C_C5 2 REF 0.6814738003228pf
C_C6 2 3 0.1264136214238pf
C_C7 3 REF 0.6647657822755pf
C_C8 4 REF 0.6579791846482pf
L_L1 1 5 1.0623063905059nh
R_RL1 5 2 -6.830723919e-3
L_L2 3 6 1.2953986729634nh
R_RL2 6 4 1.3793222024e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_23 1 2 3 4 REF
C_C1 1 REF 0.4618329729896pf
C_C2 1 2 12.042775833567pf
C_C3 1 3 0.0769432876175pf
C_C4 1 4 0.1823148312051pf
C_C5 2 REF 0.6270320108885pf
C_C6 2 3 0.0916116845442pf
C_C7 3 REF 0.6639596539939pf
C_C8 4 REF 0.6561505918809pf
L_L1 1 5 1.5246162129021nh
R_RL1 5 2 -0.029500879626
L_L2 3 6 1.293218634725nh
R_RL2 6 4 -2.512343548e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_24 1 2 3 4 REF
C_C1 1 REF 0.4958336050978pf
C_C2 1 2 8.3187197899913pf
C_C3 1 3 0.0992231089266pf
C_C4 1 4 0.1390779992104pf
C_C5 2 REF 0.6094054302248pf
C_C6 2 3 0.0738777253856pf
C_C7 2 4 0.0450753210087pf
C_C8 3 REF 0.6622224343785pf
C_C9 4 REF 0.6537185417949pf
L_L1 1 5 1.7998657048249nh
R_RL1 5 2 -8.302691501e-3
L_L2 3 6 1.2904914515694nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_25 1 2 3 4 REF
C_C1 1 REF 0.5154388025876pf
C_C2 1 2 6.9736522320593pf
C_C3 1 3 0.1184028503594pf
C_C4 1 4 0.1178970463508pf
C_C5 2 REF 0.6120205479449pf
C_C6 2 3 0.0602678886105pf
C_C7 2 4 0.0721031817718pf
C_C8 3 REF 0.6601156268223pf
C_C9 4 REF 0.65109021922pf
L_L1 1 5 1.9117318972374nh
R_RL1 5 2 -7.094758765e-4
L_L2 3 6 1.2871009383782nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_26 1 2 3 4 REF
C_C1 1 REF 0.5235279618025pf
C_C2 1 2 6.8982963041477pf
C_C3 1 3 0.1324208965966pf
C_C4 1 4 0.1102101421251pf
C_C5 2 REF 0.6218594142627pf
C_C6 2 3 0.0506241951779pf
C_C7 2 4 0.0844470208214pf
C_C8 3 REF 0.6584618291513pf
C_C9 4 REF 0.6490450505628pf
L_L1 1 5 1.8966151116561nh
R_RL1 5 2 5.0336317196e-5
L_L2 3 6 1.285649429107nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param20_26

